US04560799
(a) 3-(3,5-Di-tert-butyl-4-hydroxyphenylthio)-n-butanal
3.12 Grams of crotonaldehyde(0.042 mole) are added dropwise over a 15 minute period at 17°-22° C. to a solution of 10.8 grams of 2,6-di-tert-butyl-4-mercaptophenol (0.044 moles) and 0.5 gram of triethylamine in 20 ml of toluene and allowed to react in a nitrogen atmosphere at room temperature for 30 minutes and then at 50°-55° C. for two hours. Analysis indicates that the reaction is substantially complete at this point. The product, isolated as a light yellow liquid, is obtained in nearly quantitative yield after stripping off volatiles at 40° to 50° C. at 0.15 mm. Hg.

reactant | crotonaldehyde | 0.042 mole | C(\C=C\C)=O | C4H6O
reactant | 2,6-di-tert-butyl-4-mercaptophenol | 0.044 moles, 10.8 grams | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
reactant | triethylamine | 0.5 gram | C(C)N(CC)CC | C6H15N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(3,5-Di-tert-butyl-4-hydroxyphenylthio)-n-butanal | quantitative yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(CC=O)C | C18H28O2S
